US07875645B2
rac-2-(2,6-Diethyl-benzyl)-4-methyl-4,5-dihydro-1H-imidazole was prepared from 2-(2,2-dibromo-vinyl)-1,3-diethyl-benzene and 1,2-diaminopropane in analogy to Example 1 e): orange crystals; MS (EI): 230.2 (M+. ), 215.2 ((M-CH3)+.), 201.2 (((M-CH3CH2)+.), 100%).

reactant | 2-(2,2-dibromo-vinyl)-1,3-diethyl-benzene | BrC(=CC1=C(C=CC=C1CC)CC)Br | C12H14Br2
reactant | 1,2-diaminopropane | NCC(C)N | C3H10N2
product | rac-2-(2,6-Diethyl-benzyl)-4-methyl-4,5-dihydro-1H-imidazole | C(C)C1=C(CC=2NCC(N2)C)C(=CC=C1)CC | C15H22N2
